US05574097
1-Chloro-1-phenylmethyl Vinyl Carbonate
Vinyl chloroformate (3.0 g, 0.028 mol) and benzaldehyde (4.14 g. 0.039 mol) were dissolved in 1,2-dichloroethane (30 ml) and pyridine (0.1 g, 1.28 mol) was added dropwise to the stired solution. The solution was stirred for 1 day at 80° C., washed with water (25 ml), and the aqueous phase was back extracted with methylene chloride (25 ml). The combined organic phases were dried (MgSO4) and concentrated to give 3.0 g (50%) of the title product.

reactant | Vinyl chloroformate | 0.028 mol, 3.0 g | ClC(=O)OC=C | C3H3ClO2
reactant | benzaldehyde | 0.039 mol, 4.14 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | pyridine | 1.28 mol, 0.1 g | N1=CC=CC=C1 | C5H5N
reactant | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 1-Chloro-1-phenylmethyl Vinyl Carbonate | 3.0 g, 50% | C(OC(C1=CC=CC=C1)Cl)(OC=C)=O | C10H9ClO3
